US06492373B2
To a solution of the 1-(4-nitro-2-fluorophenyl)-6-fluoro-7-{4-[2-(4-methoxyphenyl)-2-oxoethyl]piperazinyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (0.58 g, 1 mmol) in absolute ethanol (20 ml) were added hydroxylamine hydrochloride (0.14 g, 2 mmol) and sodium bicarbonate (0.17 g, 2 mmol) dissolved in distilled water (2 ml). The reaction mixture was refluxed for 20 hr, then diluted with CH2Cl2 (50 ml). The organic phase was washed successively with water and brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give a pale yellow solid which was purified by flash column chromatography (silica gel, with CH2Cl2/methanol (10:1) as the eluant) and crystillization from CH2Cl2/methanol 5:1 to give 1-(4-nitro-2-fluorophenyl)-6-fluoro-7-{4-[2-hydroxyimino-2-(4-methoxy-phenyl)ethyl]-1-piperazinyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (0.46 g, 80% yield). Mp: 216° C. (dec). 1H NMR (DMSO-d6) δ 2.54 and 3.02 (two n, 8H), 3.63 (s, 2H), 3.76 (s, 3H), 6.36 (d, 1H, J=6.8), 6.89 (d, 2H, J=8.8), 7.67 (d, 2H, J=8.8), 7.98 (d, 1H, J=13.2), 8.12-8.53 (m, 3H) 8.91 (s, 1H), 11.22 (s, 1H), 14.85 (br s, 1H) . Anal. Calcd. for C29H,5F2N5O7•2.5 H2O: C, 54.55; H, 4.74; N, 10.97. Found: C, 54.19; H, 4.36; N, 10.66.

reactant | 1-(4-nitro-2-fluorophenyl)-6-fluoro-7-{4-[2-(4-methoxyphenyl)-2-oxoethyl]piperazinyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1 mmol, 0.58 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)OC)F)=O)C(=O)O)F | C29H24F2N4O7
reactant | hydroxylamine hydrochloride | 2 mmol, 0.14 g | Cl.NO
reactant | sodium bicarbonate | 2 mmol, 0.17 g | C([O-])(O)=O.[Na+]
reactant | CH2Cl2 methanol | C(Cl)Cl.CO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-nitro-2-fluorophenyl)-6-fluoro-7-{4-[2-hydroxyimino-2-(4-methoxy-phenyl)ethyl]-1-piperazinyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.46 g, 80% yield | [N+](=O)([O-])C1=CC(=C(C=C1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(C1=CC=C(C=C1)OC)=NO)F)=O)C(=O)O)F | C29H25F2N5O7
